US09353081B2
[E] 7-Fluoro-1-methyl-6-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3,4-dihydro-1H-quinolin-2-one
To a mixture of 6-bromo-7-fluoro-1-methyl-3,4-dihydro-1H-quinolin-2-one (18.0 g, 69.8 mmol) in dry dioxane (400 mL) was added 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (20.0 g, 83.8 mmol), potassium acetate (20.5 g, 209.4 mmol) and dichloro[1,1′-bis(diphenylphosphino)-ferrocene]palladium(II) dichloromethane complex (1:1) [PdCl2(DPPF)-CH2Cl2 adduct] (2.55 g, 3.49 mmol). Under argon protection, the reaction mixture was heated at 85° C. over night. After dilution with EtOAc, the mixture was filtrated through a Celite pad and the filter cake was washed with additional EtOAc several times. The combined filtrate was then washed with brine, dried over anhy. Na2SO4, filtered and concentrated in vacuo. Silica gel column chromatography separation (0 to 30% EtOAc in hexane) afforded the crude title compound as white sticky material. Trituration with hexane several times gave the crude product as a white solid (10.0 g, 47% yield).

reactant | 6-bromo-7-fluoro-1-methyl-3,4-dihydro-1H-quinolin-2-one | 69.8 mmol, 18.0 g | BrC=1C=C2CCC(N(C2=CC1F)C)=O | C10H9BrFNO
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 83.8 mmol, 20.0 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 209.4 mmol, 20.5 g | C(C)(=O)[O-].[K+]
reactant | hexane | CCCCCC | C6H14
solvent | dioxane | 400 mL | O1CCOCC1 | C4H8O2
product | 7-Fluoro-1-methyl-6-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3,4-dihydro-1H-quinolin-2-one | 10.0 g, 47% yield | FC1=C(C=C2CCC(N(C2=C1)C)=O)B1OC(C(O1)(C)C)(C)C | C16H21BFNO3
